US07125990B2
6-Chloro-2-trifluoromethyl-7-(2,4,6-trimethyl-phenyl)-7H-imidazo[1,2-a]imidazole-3-carboxylic acid ethyl ester, Scheme 6: (AA)
A solution of 6-oxo-2-trifluoromethyl-7-(2,4,6-trimethyl-phenyl)-6,7-dihydro-5H-imidazo[1,2-a]imidazole-3-carboxylic acid ethyl ester (3.04 g, 6.137 mol) in phosphorus oxychloride (70 mL) was heated at 150° C. for 72 h. The excess of phosphorus oxychloride was removed under reduced pressure, the residue was dissolved in saturated aqueous solution of sodium bicarbonate (100 mL) and extracted with ethyl acetate (5×50 mL). The combined organic extracts were dried with MgSO4. The solvent was removed under reduced pressure and the crude product was dried under pump vacuum overnight. Yield—1.192 g (38%). LC/MS: tR=2.17 min., MS: [M+H]=400.

reactant | 6-oxo-2-trifluoromethyl-7-(2,4,6-trimethyl-phenyl)-6,7-dihydro-5H-imidazo[1,2-a]imidazole-3-carboxylic acid ethyl ester | 6.137 mol, 3.04 g | C(C)OC(=O)C1=C(N=C2N1CC(N2C2=C(C=C(C=C2C)C)C)=O)C(F)(F)F | C18H18F3N3O3
reactant | phosphorus oxychloride | 70 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-Chloro-2-trifluoromethyl-7-(2,4,6-trimethyl-phenyl)-7H-imidazo[1,2-a]imidazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C2N1C=C(N2C2=C(C=C(C=C2C)C)C)Cl)C(F)(F)F | C18H17ClF3N3O2
